.INCLUDE  /home/PDK/ss28nm/SEC_CDS/ln28lppdk/S00-V1.1.0.1_SEC2.0.6.2/oa/cmos28lp/.resources/devices.cdl
.SUBCKT SALatch CLK INn INp SSn SSp VDD VSS
MP5 net085 CLK VDD VDD slvtpfet w=10.406u l=0.054u nf=11.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP4 SSp CLK VDD VDD slvtpfet w=6.622u l=0.054u nf=7.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP3 net088 CLK VDD VDD slvtpfet w=10.406u l=0.054u nf=11.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP2 SSn CLK VDD VDD slvtpfet w=6.622u l=0.054u nf=7.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP1 SSn SSp VDD VDD slvtpfet w=2.838u l=0.054u nf=3.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP0 SSp SSn VDD VDD slvtpfet w=2.838u l=0.054u nf=3.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN7 net085 INn net083 VSS slvtnfet w=4.654u l=0.054u nf=13.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN2 net088 INp net083 VSS slvtnfet w=4.654u l=0.054u nf=13.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN4 SSp SSn net085 VSS slvtnfet w=2.864u l=0.054u nf=8.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN3 SSn SSp net088 VSS slvtnfet w=2.864u l=0.054u nf=8.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN1 net083 CLK VSS VSS slvtnfet w=1.8u l=0.054u nf=6.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS
