.INCLUDE  /home/PDK/ss28nm/SEC_CDS/ln28lppdk/S00-V1.1.0.1_SEC2.0.6.2/oa/cmos28lp/.resources/devices.cdl
.SUBCKT Inv IN OUT VDD VSS
MN30 OUT IN VSS VSS slvtnfet w=2.366u l=0.054u nf=7.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP30 OUT IN VDD VDD slvtpfet w=4.732u l=0.054u nf=7.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS
.SUBCKT SRLatch IN INb OUT OUTb VDD VSS
MN45 OUTb net26 VSS VSS slvtnfet w=3.38u l=0.054u nf=10.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN48 net38 OUTb VSS VSS slvtnfet w=4.394u l=0.054u nf=13.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN46 OUTb IN net37 VSS slvtnfet w=2.704u l=0.054u nf=8.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN42 OUT net10 VSS VSS slvtnfet w=3.38u l=0.054u nf=10.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN47 net37 OUT VSS VSS slvtnfet w=4.394u l=0.054u nf=13.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN40 OUT INb net38 VSS slvtnfet w=2.704u l=0.054u nf=8.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP45 OUT INb VDD VDD slvtpfet w=6.76u l=0.054u nf=10.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP44 OUTb IN VDD VDD slvtpfet w=6.76u l=0.054u nf=10.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP43 net33 OUT VDD VDD slvtpfet w=8.788u l=0.054u nf=13.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP42 OUTb net26 net33 VDD slvtpfet w=5.408u l=0.054u nf=8.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP41 net35 OUTb VDD VDD slvtpfet w=8.788u l=0.054u nf=13.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP40 OUT net10 net35 VDD slvtpfet w=5.408u l=0.054u nf=8.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
XI49 IN net10 VDD VSS / Inv
XI46 INb net26 VDD VSS / Inv
.ENDS
