.INCLUDE /home/PDK/ss28nm/SEC_CDS/ln28lppdk/S00-V1.1.0.1_SEC2.0.6.2/oa/cmos28lp/.resources/devices.cdl
.PARAM
.SUBCKT inverter VDD VIN VOUT VSS
MN0 VOUT VIN VSS VSS slvtnfet w=71.0u l=0.04u nf=142.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP0 VOUT VIN VDD VDD slvtpfet w=36.66u l=0.03u nf=47.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS