.INCLUDE /home/PDK/ss28nm/SEC_CDS/ln28lppdk/S00-V1.1.0.1_SEC2.0.6.2/oa/cmos28lp/.resources/devices.cdl
.PARAM
.SUBCKT inverter VDD VIN VOUT VSS
MN0 VOUT VIN VSS VSS slvtnfet w=29.15u l=0.07u nf=53.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP0 VOUT VIN VDD VDD slvtpfet w=94.87u l=0.09u nf=179.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS